US08217043B2
f) 4-Hydroxy-2-oxo-6-phenyl-1-(4-trifluoromethyl-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester
A mixture of 6-bromo-4-hydroxy-2-oxo-1-(4-trifluoromethyl-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester (446 mg), phenyl boronic acid (366 mg), PEPPSI-IPr (34 mg; Total Synthesis Ltd./Sigma-Aldrich), and sodium carbonate solution (1.0 mL, 2 M in water) in DMA (10 mL) was heated at 120° C. for 5 h; the mixture was then cooled, diluted with EtOAc, washed with water, diluted HCl solution and sat. NaCl solution respectively; subsequently, the organic phase was dried over sodium sulfate, filtered, concentrated, and the residue was column purified (eluent: DCM/MeOH) to give the desired product (59 mg). ESI (m/z): 443 (M+H)+.

reactant | 6-bromo-4-hydroxy-2-oxo-1-(4-trifluoromethyl-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester | 446 mg | COC(=O)C1=C(C=2N(N(C1=O)CC1=CC=C(C=C1)C(F)(F)F)C=C(C2)Br)O | C17H12BrF3N2O4
reactant | phenyl boronic acid | 366 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 2 M, 1.0 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMA | 10 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-Hydroxy-2-oxo-6-phenyl-1-(4-trifluoromethyl-benzyl)-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid methyl ester | 59 mg | COC(=O)C1=C(C=2N(N(C1=O)CC1=CC=C(C=C1)C(F)(F)F)C=C(C2)C2=CC=CC=C2)O | C23H17F3N2O4
